US08604050B2
4.1 (6-Nitrothiazolo[5,4-b]pyrid-2-yl)methyl 2,2-dimethylpropanoate
A mixture of 6 g (29.48 mmol) of 2-chloro-3,5-dinitropyridine and 7.74 g (44.22 mmol) of 2-amino-2-thioxoethyl pivalate in 50 mL of sulfolane is heated for 2 hours at 105° C. After this time, 150 mL of ethyl acetate are added to the mixture, and the organic phase is washed three times with 200 mL of water and then once with 100 mL of saturated sodium chloride solution. The organic phase is then separated out, dried over sodium sulfate and then concentrated under reduced pressure. The product obtained is purified by chromatography on a column of silica, eluting with a mixture of heptane and ethyl acetate. 1.45 g of a yellow solid are obtained.

reactant | 2-chloro-3,5-dinitropyridine | 29.48 mmol, 6 g | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | 2-amino-2-thioxoethyl pivalate | 44.22 mmol, 7.74 g | C(C(C)(C)C)(=O)OCC(=S)N | C7H13NO2S
reactant | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | sulfolane | 50 mL | S1(=O)(=O)CCCC1 | C4H8O2S
product | (6-Nitrothiazolo[5,4-b]pyrid-2-yl)methyl 2,2-dimethylpropanoate | 1.45 g | CC(C(=O)OCC=1SC2=NC=C(C=C2N1)[N+](=O)[O-])(C)C | C12H13N3O4S
